US09302991B2
<Step-2>: 2-propionamidoisonicotinic acid
A mixture of methyl 2-propionamidoisonicotinate (1.07 g, 5.15 mmol), 2M aqueous sodium hydroxide solution (5 mL) and methanol (25 mL) is stirred at 50° C. for 2 hours. After removal of the methanol by evaporation, the solution is acidified by 2M hydrochloric acid and extracted with ethyl acetate. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is crystallized from tetrahydrofuran and n-hexane to give 0.76 g (76% yield) of the title compound as a white solid.

reactant | methyl 2-propionamidoisonicotinate | 5.15 mmol, 1.07 g | C(CC)(=O)NC=1C=C(C(=O)OC)C=CN1 | C10H12N2O3
reactant | sodium hydroxide | 2M, 5 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-propionamidoisonicotinic acid | 0.76 g, 76% yield | C(CC)(=O)NC=1C=C(C(=O)O)C=CN1 | C9H10N2O3
